US04616086
Ethyl 4-{2-[1-(4-chlorophenylacetyl)-piperazin-4-yl]-ethyl}-benzoate
To a mixture of 9.7 g. (37 mmole) ethyl 4-[2-(piperazin-1-yl)-ethyl]-benzoate, 40 ml. methylene chloride and 6.3 g. (80 mmole) anhydrous pyridine is added dropwise at 0° C., in the course of 40 minutes, a solution of 7.0 g. (37 mmole) 4-chlorophenylacetyl chloride in 20 ml. methylene chloride, a cheesy precipitate being formed. After stirring at 20° C. for 4 hours, the reaction mixture is poured into 250 ml. ice water, rendered alkaline with ammonia and extracted several times with methylene chloride. The methylene chloride solution is washed twice with water, dried with anhydrous sodium sulphate and evaporated. After the addition of ligroin, crystallisation occurs. The product is recrystallised from diethyl ether to give 51% of theory of the desired product; m.p. 88°-89° C.

reactant | ethyl 4-[2-(piperazin-1-yl)-ethyl]-benzoate | 37 mmole | N1(CCNCC1)CCC1=CC=C(C(=O)OCC)C=C1 | C15H22N2O2
reactant | pyridine | 80 mmole | N1=CC=CC=C1 | C5H5N
reactant | 4-chlorophenylacetyl chloride | 37 mmole | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
reactant | ammonia | N | H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Ethyl 4-{2-[1-(4-chlorophenylacetyl)-piperazin-4-yl]-ethyl}-benzoate | ClC1=CC=C(C=C1)CC(=O)N1CCN(CC1)CCC1=CC=C(C(=O)OCC)C=C1 | C23H27ClN2O3
